US04452990
Twenty-eight grams of dihydro 1H-pyrrolizine-3,5 (2H, 6H) dione is dissolved in 76 g of benzyl alcohol and 0.2 ml of concentrated hydrochloric acid is added. The solution is heated at 98° C. for 104 hours. The mixture is cooled and excess benzyl alcohol is distilled at 0.1 mm pressure to a maximum bath temperature of 100° C. The residual oil is dissolved in 1 l of anhydrous diethylether, 1 g of activated charcoal is added and the resulting suspension is filtered through filter aid. The filtrate is concentrated at reduced pressure and the resulting crystals are isolated by filtration. Recrystallization from cyclohexane containing 12% methylene chloride yields 5-oxo-2-pyrrolidinepropanoic acid benzyl ester with a melting point of 79°-80° C.

reactant | dihydro 1H-pyrrolizine-3,5 (2H, 6H) dione | Twenty-eight grams | C1CC(N2C(CCC12)=O)=O | C7H9NO2
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | benzyl alcohol | 76 g | C(C1=CC=CC=C1)O | C7H8O
product | 5-oxo-2-pyrrolidinepropanoic acid benzyl ester | C(C1=CC=CC=C1)OC(CCC1NC(CC1)=O)=O | C14H17NO3
